US06462035B1
5-ETHOXY-11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3.5-TRIENE HYDROCHLORIDE
11-Benzyl-5-Ethoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene hydrochloride (160 mg, mmol), ammonium formate (220 mg, 3.49 mmol) and 10%Pd(OH)2/C (100 mg) were combined in methanol (MeOH) (5 mL) and warmed to reflux for 15 min. The mixture was cooled, filtered, concentrated, diluted with sat. aq. Na2CO2 soln. and extracted with EtOAc (3×20 mL). The extracts were dried (MgSO4), filtered and concentrated to an oil (94 mg, 83%). (TLC 50%EtOAc/hexanes (NH3) Rf 0.20). 1H NMR (CDCl3) δ6.90 (d, J=9.0 Hz, 1H), 6.66 (2H), 3.97 (m, 2H), 3.08 (dd, J=18.0,6.0 Hz, 1H), 2.94 (m, 3H), 2.76-2.65 (3H), 1.96 (m, 2H), 1.88 (d, J=11.0 Hz, 1H), 1.38 (t, J=7.0 Hz, 3H). This material was dissolved in excess 1N HCl MeOH and concentrated. Recrystallization from CH2Cl2/Et2O provided a solid (74 mg, 68%). mp 243-245° C.

reactant | 11-Benzyl-5-Ethoxy-11-aza-tricyclo[7.3.1.02,7]trideca-2(7),3,5-triene hydrochloride | 160 mg | Cl.C(C1=CC=CC=C1)N1CC2CC=3C=C(C=CC3C(C1)C2)OCC
reactant | ammonium formate | 3.49 mmol, 220 mg | C(=O)[O-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd(OH)2/C | 100 mg | [OH-].[OH-].[Pd+2]
product | 5-ETHOXY-11-AZA-TRICYCLO[7.3.1.02,7]TRIDECA-2(7),3.5-TRIENE HYDROCHLORIDE | 74 mg, 68% | Cl.C(C)OC=1C=CC=2C3CNCC(CC2C1)C3 | InChI=1S/C14H19NO.ClH/c1-2-16-13-3-4-14-11(7-13)5-10-6-12(14)9-15-8-10;/h3-4,7,10,12,15H,2,5-6,8-9H2,1H3;1H
